US09447033B2
i) 3-(Pyridine-3-sulfonylamino)-benzoic acid tert-butyl ester
A solution of tert-butyl-3-aminobenzoate (100 mg, 0.5 mmol) and pyridine-3-sulfonylchloride (110 mg, 0.5 mmol) in pyridine (5 ml) was heated to 50° C. for 90 min. On cooling, the reaction was diluted with toluene (100 ml) and concentrated in vacuo. This was repeated with further aliquots of toluene until all the pyridine had been removed to afford the title compound as a yellow oil (175 mg). HPLC retention time 4.27 min. Mass spectrum (ES+) m/z 335 (M+H).

reactant | tert-butyl-3-aminobenzoate | 0.5 mmol, 100 mg | C(C)(C)(C)OC(C1=CC(=CC=C1)N)=O | C11H15NO2
reactant | pyridine-3-sulfonylchloride | 0.5 mmol, 110 mg | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(Pyridine-3-sulfonylamino)-benzoic acid tert-butyl ester | 175 mg | C(C)(C)(C)OC(C1=CC(=CC=C1)NS(=O)(=O)C=1C=NC=CC1)=O | C16H18N2O4S
